US07378417B2
5-(4-Chloro-phenyl)-7-ethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid[3-(2-hydroxy-1,1-dimethyl-ethylsulfamoyl)-phenyl]-amide
The title compound was prepared from 5-(4-chloro-phenyl)-7-ethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.26) and 3-amino-N-(2-hydroxy-1,1-dimethyl-ethyl)-benzenesulfonamide (example B.8) according to general procedure II. Pale-yellow solid. MS (ISP) 528.0 [(M+H)+]; mp 239-240° C.

reactant | 5-(4-chloro-phenyl)-7-ethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)CC)N=CC2C(=O)O | C15H12ClN3O2
reactant | 3-amino-N-(2-hydroxy-1,1-dimethyl-ethyl)-benzenesulfonamide | NC=1C=C(C=CC1)S(=O)(=O)NC(CO)(C)C | C10H16N2O3S
product | 5-(4-Chloro-phenyl)-7-ethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid[3-(2-hydroxy-1,1-dimethyl-ethylsulfamoyl)-phenyl]-amide | OCC(C)(C)NS(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2CC)C2=CC=C(C=C2)Cl | C25H26ClN5O4S
